US06586156B2
Synthesis of hydroxystyrene-(3-acryloxypropyl)trimethylsiloxy silane copolymer (polymer A)
5 g (3-acryloxypropyl)trimethylsiloxy silane, 38 g acetoxystyrene and 2.41 g AIBN were dissolved in 128 g THF and charged into a 3-neck flask. The system was then purged with N2 for 30 mins before the temperature was raised to 65° C. The reaction was carried out overnight under N2. On the second day, 100 g methanol and 30 mL 30% ammonia hydroxide were added to the system and the temperature was kept at 60° C. The reaction was carried out overnight under N2. On the third day, the solution was precipitated in 2000 mL water and 20 mL acetic acid. The polymer was collected and dried in vacuum oven overnight at 40° C. The molecular weight was determined by gel permeation chromatography (GPC) to be 7.5K.

reactant | (3-acryloxypropyl)trimethylsiloxy silane | 5 g | C(C=C)(=O)OCCC[SiH2]O[Si](C)(C)C | C9H20O3Si2
reactant | acetoxystyrene | 38 g | C(C)(=O)OC=CC1=CC=CC=C1 | C10H10O2
reactant | AIBN | 2.41 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | THF | 128 g | C1CCOC1 | C4H8O
product | hydroxystyrene (3-acryloxypropyl)trimethylsiloxy silane | OC=CC1=CC=CC=C1.C(C=C)(=O)OCCC[SiH2]O[Si](C)(C)C | InChI=1S/C9H20O3Si2.C8H8O/c1-5-9(10)11-7-6-8-13-12-14(2,3)4;9-7-6-8-4-2-1-3-5-8/h5H,1,6-8,13H2,2-4H3;1-7,9H
